US07501438B2
Preparation of 3-(2-morpholin-4-yl-ethyl)-imidazo[1,5-a]pyridine-1-carboxylic acid (pyridin-3-ylmethyl)-amide
To a solution of 2-(aminomethyl)pyridine (0.052 g, 0.54 mmol) and triethylamine (0.16 mL, 1.14 mmol) in CH2Cl2 (10 mL) was added 3-(2-morpholin-4-yl-ethyl)-imidazo[1,5-a]pyridine-1-carbonyl chloride hydrochloride (150 mg, 0.45 mmol). The mixture was stirred at ambient temperature for 1 h then washed with sat. aq. NaHCO3 (20 mL). The organic layer was separated and the aqueous layer was extracted with dichloromethane (20 mL). The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica to yield the title compound (52 mg, 32%). 1H NMR (DMSO-d6) δ 8.50 (2H), 8.35 (1H), 8.05 (1H), 7.54 (1H), 7.32 (1H), 7.25 (1H), 78.08 (1H), 6.85 (1H), 4.59 (2H), 3.57 (4H), 3.20 (2H), 2.80 (2H), 2.43 (4H); m/z (M+H)=366.15.

reactant | 2-(aminomethyl)pyridine | 0.54 mmol, 0.052 g | NCC1=NC=CC=C1 | C6H8N2
reactant | triethylamine | 1.14 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(2-morpholin-4-yl-ethyl)-imidazo[1,5-a]pyridine-1-carbonyl chloride hydrochloride | 0.45 mmol, 150 mg | Cl.N1(CCOCC1)CCC1=NC(=C2N1C=CC=C2)C(=O)Cl
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-morpholin-4-yl-ethyl)-imidazo[1,5-a]pyridine-1-carboxylic acid (pyridin-3-ylmethyl)-amide | 52 mg, 32% | N1=CC(=CC=C1)CNC(=O)C=1N=C(N2C1C=CC=C2)CCN2CCOCC2 | C20H23N5O2
